US06960589B2
N-(2-chloropyridin-3-yl)methanesulfonamide
2-Chloro-pyridin-3-ylamine (1.00 g, 7.75 mmol) in dichloromethane (20 mL) at 23° C. was treated with methane sulfonyl chloride (2.23 g, 19.4 mmol) and triethylamine (1.96 g, 19.4 mmol). After stirring for 48 hours, the reaction mixture was diluted with water, the layers were separated, and the aqueous phase was extracted with dichloromethane (2×). The organic layers were combined, dried over MgSO4, filtered, and the filtrate concentrated under reduced pressure. The residue was chromatographed on flash silica gel (20% ethyl acetate:hexanes), concentrated under reduced pressure, and added to a 10% aqueous sodium hydroxide solution (32 mL). The solution was stirred vigorously for about 0.5 hours until homogeneous. The solution was then neutralized to pH ˜7 with 2N HCl, saturated with Na2SO4, and extracted with ethyl acetate (3×). The combined extracts were dried over Na2SO4, filtered, and the filtrate concentrated under reduced pressure to afford 1.5 g (93% yield) of the title compound. References: Tetrahedron Letters 38, 26, 4667-4670, 1997; Eur. J. Org. Chem. 2000, 1263-1270. 1H NMR (300 MHz, DMSO-d6) δ 3.12 (s, 3H), 7.46 (dd, J=4.5, 8.4 Hz, 1H), 7.89 (dd, J=1.5, 8.4 Hz, 1H), 8.27 (dd, J=1.5, 4.5 Hz, 1H), 9.72 (bs, 1H); MS (ESI) m/e 205 (M)−.

reactant | 2-Chloro-pyridin-3-ylamine | 7.75 mmol, 1.00 g | ClC1=NC=CC=C1N | C5H5ClN2
reactant | methane sulfonyl chloride | 19.4 mmol, 2.23 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 19.4 mmol, 1.96 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | N-(2-chloropyridin-3-yl)methanesulfonamide | 1.5 g, 93% yield | ClC1=NC=CC=C1NS(=O)(=O)C | C6H7ClN2O2S
